### ISSUE TITLE
Elaborator doesn't produce `InfoTree` for incomplete `match` and incomplete terms in `apply`

### ISSUE THREAD

**Issue by mhuisi** [leanprover/lean4#5336]
### Description

In incomplete `match` statements and in incomplete terms in `apply`, the elaborator often does not produce `InfoTree`s.

### Context

This issue is derived from #5172. #5299 resolves the fact that completion doesn't trigger in these contexts, but it doesn't resolve the underlying problem that the elaborator does not produce InfoTrees in this example, which are also needed for all kinds of other language server features.

### Steps to Reproduce

Consider the following example from #5172:
```lean
set_option trace.Elab.info true

inductive Direction where
  | up
  | right
  | down
  | left
deriving Repr

def angle (d: Direction) :=
  match d with
  | Direction. => 90 
  | Direction.right => 0
  | Direction.down => 270
  | Direction.left => 180

example : p ∨ (q ∧ r) → (p ∨ q) ∧ (p ∨ r) := by
  intro h
  cases h with
  | inl hp => apply And. (Or.intro_left q hp) (Or.intro_left r hp)
  | inr hqr => apply And.intro (Or.intro_right p hqr.left) (Or.intro_right p hqr.right)
```

In `angle`, all `InfoTree` information for the incomplete `match` statement is missing. In the `example`, all `InfoTree` information for the incomplete term in the first `apply` is missing.

### Versions

Current master ([ec98c92](https://github.com/leanprover/lean4/commit/ec98c92ba61b98926d03b3e2545b9c24bf4b25f7)).

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Related: #3831. I thought we also had one for `match`

**Comment by kmill** [comment]
#5862 added info for `apply`, but `match` is still remaining.
